US04829071
5-Methanesulphonamido-2-[N-(6-methanesulphonamidoquinol-2-ylmethyl)-N-methylamino]indane
5-Methanesulphonamido-2-methylaminoindane (0.09 g), 2-chloromethyl-6-methanesulphonamidoquinoline (0.1 g) and sodium bicarbonate (0.2 g) were heated under reflux in acetonitrile (10 ml) for 11/2 hours. The solvent was then removed by evaporation in vacuo and the residue was taken up in methylene chloride, washed with aqueous sodium bicarbonate, dried (MgSO4) and evaporated in vacuo. The residue was purified by column chromatography on silica eluting with methylene chloride containing methanol (0% up to 2%) and the product-containing fractions were combined and evaporated to give the title compound as a form, yield 0.09 g. A sample was crystallised from deuterochloroform, m.p. 189°-191°.

reactant | 5-Methanesulphonamido-2-methylaminoindane | 0.09 g | CS(=O)(=O)NC=1C=C2CC(CC2=CC1)NC | C11H16N2O2S
reactant | 2-chloromethyl-6-methanesulphonamidoquinoline | 0.1 g | ClCC1=NC2=CC=C(C=C2C=C1)NS(=O)(=O)C | C11H11ClN2O2S
reactant | sodium bicarbonate | 0.2 g | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 5-Methanesulphonamido-2-[N-(6-methanesulphonamidoquinol-2-ylmethyl)-N-methylamino]indane | CS(=O)(=O)NC=1C=C2CC(CC2=CC1)N(C)CC1=NC2=CC=C(C=C2C=C1)NS(=O)(=O)C | C22H26N4O4S2
